US08877760B2
The solid (R)-tert-butyl 2-amino-2-oxo-1-phenylethylcarbamate (446 mg) was dissolved in dioxane (5 mL), aq. 6N HCl (8 mL) was added. After being stirred at room temperature for 20 h, the mixture was concentrated in vacuo to give (R)-2-amino-2-phenylacetamide hydrochloride as a solid (329 mg).

reactant | (R)-tert-butyl 2-amino-2-oxo-1-phenylethylcarbamate | 446 mg | NC([C@@H](C1=CC=CC=C1)NC(OC(C)(C)C)=O)=O | C13H18N2O3
reactant | HCl | 6N, 8 mL | Cl | ClH
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | (R)-2-amino-2-phenylacetamide hydrochloride | 329 mg | Cl.N[C@@H](C(=O)N)C1=CC=CC=C1 | InChI=1S/C8H10N2O.ClH/c9-7(8(10)11)6-4-2-1-3-5-6;/h1-5,7H,9H2,(H2,10,11);1H/t7-;/m1./s1
